US04468399
Preparation of 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methyl-6-methyl-4-pyrimidone.
A reaction mixture was prepared from 1.16 g. of 2-[2-dimethylaminomethyl-4-thiazolylmethylthio]ethylamine, 1.31 g. of 2-nitroamino-5-(3-pyridyl)methyl-6-methyl-4-pyrimidone and 25 ml. of anhydrous ethanol. The reaction mixture was heated at reflux temperature for about 5 days after which time the ethanol was removed by evaporation. The residue was chromatographed using high pressure liquid gradient elution chromatography (silica-ethanol/ethyl acetate/ammonium hydroxide). Fractions containing 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methyl-6-methyl-4-pyrimidone were combined and the solvents removed from the combined fractions. 1.1 g. of crystalline material was obtained which melted at about 130°-131° C. after recrystallization from a mixture of ethanol and ether; yield=1.03 g. 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methyl-6-methyl-4-pyrimidone thus prepared had the following analysis:

reactant | 2-[2-dimethylaminomethyl-4-thiazolylmethylthio]ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-nitroamino-5-(3-pyridyl)methyl-6-methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC(=C(C(N1)=O)CC=1C=NC=CC1)C | C11H11N5O3
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methyl-6-methyl-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC(=C(C(N1)=O)CC=1C=NC=CC1)C | C20H26N6OS2
